US08309581B2
2-[4-Chloro-2-(2-chloro-benzyloxy)-phenyl]-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole
To a suspension of sodium hydride (16 mg, 0.4 mmol, 60%) in dry N,N-dimethylformamide (10 ml) at 25° C. was slowly added a solution of 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol (0.10 g, 0.275 mmol) in dry N,N-dimethylformamide (5 ml), and was allowed to stir for 0.5 h. A solution of 1-bromomethyl-2-chloro-benzene (82 mg, 0.4 mmol; CAS Reg. No. 611-17-6) in N,N-dimethylformamide (5 ml) was then added drop wise to the above solution, and further stirred for 16 h at 25° C. The reaction mixture was quenched with saturated aqueous solution of ammonium chloride. The solvents were removed under reduced pressure. The crude material dissolved in ethyl acetate, washed with water, and then with brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure. The crude product was purified by column chromatography over silica gel (10-20% ethyl acetate/n-hexane) to afford the title compound as a colorless powder (38%). MS (Turbo Spray): m/z=501.2 (M+H).

reactant | sodium hydride | 0.4 mmol, 16 mg | [H-].[Na+]
reactant | 5-chloro-2-(1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazol-2-yl)-phenol | 0.275 mmol, 0.10 g | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F | C20H19ClF2N2O
reactant | 1-bromomethyl-2-chloro-benzene | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[4-Chloro-2-(2-chloro-benzyloxy)-phenyl]-1-cyclohexylmethyl-5,6-difluoro-1H-benzoimidazole | 38% | ClC1=CC(=C(C=C1)C1=NC2=C(N1CC1CCCCC1)C=C(C(=C2)F)F)OCC2=C(C=CC=C2)Cl | C27H24Cl2F2N2O
